US05254581
Using a similar procedure to that described in Example 14, 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one was reacted with 4-(5-fluoro-3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran to give 4-[5-fluoro-3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]-3,4,5,6-tetrahydro-2H-pyran in 46% yield, m.p. 126°-127° C.

reactant | 6-bromomethyl-1-methyl-1,2-dihydroquinolin-2-one | BrCC=1C=C2C=CC(N(C2=CC1)C)=O | C11H10BrNO
reactant | 4-(5-fluoro-3-hydroxyphenyl)-3,4,5,6-tetrahydro-2H-pyran | FC=1C=C(C=C(C1)C1CCOCC1)O | C11H13FO2
product | 4-[5-fluoro-3-(1-methyl-2-oxo-1,2-dihydroquinolin-6-ylmethoxy)phenyl]-3,4,5,6-tetrahydro-2H-pyran | 46% yield | FC=1C=C(C=C(C1)C1CCOCC1)OCC=1C=C2C=CC(N(C2=CC1)C)=O | C22H22FNO3
